US07838688B2
2) Synthesis of 2-(chloromethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine
Under a nitrogen atmosphere in a 500 mL round bottom flask equipped with a reflux condenser, 20.0 g (0.139 mol) dimethoxythiophene, 17.8 g (0.161 mol) 3-chloro-1,2-propanediol, and 5 g p-toluenesulfonic acid was dissolved in 350 mL toluene. The reaction was then heated to ˜90 C overnight. At this time TLC indicated consumption of starting material. After cooling the reaction mixture was concentrated to ˜100 mL and poured into saturated potassium carbonate solution. The mixture was extracted with DCM and the combined extracts were dried with magnesium sulfate. Solvent removal gave a dark oil that was purified by column chromatography using 3:1 hexanes/DCM. Solvent removal gave the product as a white solid. Structure and purity were confirmed by 1H/13C NMR and LC-MS.

reactant | dimethoxythiophene | 0.139 mol, 20.0 g | COC1=C(SC=C1)OC | C6H8O2S
reactant | 3-chloro-1,2-propanediol | 0.161 mol, 17.8 g | ClCC(CO)O | C3H7ClO2
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(chloromethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine | ClCC1COC=2C(O1)=CSC2 | C7H7ClO2S
